US05606063
Dissolve 3-bromo-5-ethylnitrobenzene (6.21g, 27mmol) in acetic acid (40mL) and ethanol (30mL) and treat with iron powder (2.7g). Reflux for 3 hours, filter through Celite and evaporate the solvent in vacuo. Purify by silica gel chromatography to give 3-bromo-5-ethylaniline.

reactant | 3-bromo-5-ethylnitrobenzene | 27mmol, 6.21g | BrC=1C=C(C=C(C1)CC)[N+](=O)[O-] | C8H8BrNO2
solvent | acetic acid | 40mL | C(C)(=O)O | C2H4O2
solvent | ethanol | 30mL | C(C)O | C2H6O
catalyst | iron | 2.7g | [Fe] | Fe
product | 3-bromo-5-ethylaniline | BrC=1C=C(N)C=C(C1)CC | C8H10BrN
